US07320973B2
4-Pyrrolidinophenethyl alcohol (16.41 g, 85.9 mmol) was dissolved in dichloromethane (150 ml). Dissopropylethylamine (19.0 ml, 108 ml) and methanesulfonyl chloride (8.40 ml, 108 mmol) were added to the obtained solution at 0° C., and they were stirred overnight. The reaction mixture was distributed into 5% aqueous sodium hydrogencarbonate solution and dichloromethane. The organic layer was dried and the solvent was evaporated under reduced pressure. The residue was subjected to the silica gel column chromatography. After the elution with hexane and ethyl acetate (7:3) as the eluent, suitable fractions were collected and the solvent was evaporated under reduced pressure to obtain 4-pyrrolidinophenethyl mesylate in the form of a white solid (21.14 g, 80%).

reactant | 4-Pyrrolidinophenethyl alcohol | 85.9 mmol, 16.41 g | N1(CCCC1)C1=CC=C(CCO)C=C1 | C12H17NO
reactant | methanesulfonyl chloride | 108 mmol, 8.40 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 4-pyrrolidinophenethyl mesylate | S(C)(=O)(=O)OCCC1=CC=C(C=C1)N1CCCC1 | C13H19NO3S
